US08431575B2
To a sonicated solution of 4-bromophenol (57.8 mmol, 10 g), triphenylphosphine (173 mmol, 45.4 g), and cyclohexanol (173 mmol, 17.4 g, 18.3 mL) in anhydrous THF (120 mL) under N2 atmosphere, was added DIAD (173 mmol, 35.0 g, 34.0 mL) dropwise over 20 min. After completion of addition, sonication was continued for an additional 30 min. The reaction mixture was concentrated under reduced pressure. The crude product was taken in 250 mL of hexanes and stirred for 30 minutes, filtered and the solid was washed with hexanes (500 mL). Removal of the solvent gave crude 1-bromo-4-cyclohexyloxy-benzene which was dissolved in hexanes (50 mL) and loaded onto a 240 g SiO2 cartridge. The column was eluted with 3% ethyl acetate in hexanes to give pure 1-bromo-4-cyclohexyloxy-benzene (4.5 g).

reactant | 4-bromophenol | 57.8 mmol, 10 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | triphenylphosphine | 173 mmol, 45.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cyclohexanol | 173 mmol, 18.3 mL, 17.4 g | C1(CCCCC1)O | C6H12O
reactant | DIAD | 173 mmol, 34.0 mL, 35.0 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 1-bromo-4-cyclohexyloxy-benzene | BrC1=CC=C(C=C1)OC1CCCCC1 | C12H15BrO
